US06479536B1
N-(4-Chlorobenzyl)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine
By using 4-chloro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide, the title compound was synthesized according to Example 2b. Yield: 37%. Melting point: 93-94° C. (Methanol)

reactant | 4-chloro-N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]benzamide | ClC1=CC=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C29H32ClNO2
solvent | Methanol | CO | CH4O
product | N-(4-Chlorobenzyl)-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | Yield: 37% | ClC1=CC=C(CNC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C(C)C)C2C)C)C)C=C1 | C29H34ClNO
